US04780466
8-(2-Bromoethyloxy)-8-azaspiro[4.5]decan-7,9-dione
To a solution of 8-hydroxy-8-azaspiro[4.5]decan-7,9-dione (30 g) in 600 ml of dry CH3CN were added diisopropylethylamine (57 ml) and 1,2-dibromoethane (42.4 ml). The mixture was heated to 70° with stirring. After 7 hours, heating was discontinued and the mixture was stirred at room temperature for 48 hours.

reactant | 8-hydroxy-8-azaspiro[4.5]decan-7,9-dione | 30 g | ON1C(CC2(CCCC2)CC1=O)=O | C9H13NO3
reactant | diisopropylethylamine | 57 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,2-dibromoethane | 42.4 ml | BrCCBr | C2H4Br2
solvent | CH3CN | 600 ml | CC#N | C2H3N
product | 8-(2-Bromoethyloxy)-8-azaspiro[4.5]decan-7,9-dione | BrCCON1C(CC2(CCCC2)CC1=O)=O | C11H16BrNO3
